US06342597B1
A) Triethylenetetramine hydrate
520 g of commercial triethylenetetramine (starting purity 62%, GC in % area) are dissolved in 800 mL of toluene. 80 mL of water are added under stirring, the mixture is cooled at 25° C. and seeded with purified triethylenetetramine. The suspension is stirred for 45 min. at 20° C., then cooled at 5-10° C. for 1 h. The crystallized solid is filtered, washed with some toluene, then dried at 30° C. under vacuum for 8 h. 365 g of desired product are obtained. Yield: 91% on theoretical Water content: 17% GC: 97% (in % area)

reactant | triethylenetetramine | 520 g | NCCNCCNCCN | C6H18N4
reactant | water | 80 mL | O | H2O
solvent | toluene | 800 mL | C1(=CC=CC=C1)C | C7H8
product | Triethylenetetramine hydrate | 365 g, Yield: 91% | O.NCCNCCNCCN | InChI=1S/C6H18N4.H2O/c7-1-3-9-5-6-10-4-2-8;/h9-10H,1-8H2;1H2
